US07312241B2
N-{5-[2-Cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-acetamide (E and Z isomers) were prepared analogously to N-{5-[2-cyano-1-(3,4-dimethoxy-phenyl)-vinyl]-2-methoxy-phenyl}-acetamide using 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile (0.4 g, 1.1 mmol) and acetyl chloride (1.1 mL). The crude product was slurried with hexane to give N-{5-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-acetamide (0.2 g, 41%) as a white solid: mp 155-157° C.; 1H NMR (CDCl3) δ 9.25 (d, J=2 Hz, 1H), 7.90 (d, 13.5 Hz, 1H), 7.17-6.90 (m, 3H), 6.75 (d, J=1 Hz, 1H), 6.13 (s, 1H), 5.97 (s, 1H), 4.02-3.97 (m, 2H), 3.94-3.97 (m, 6H), 2.07 (d, J=7 Hz, 3H), 1.70 (t, 3H); 13C NMR (CDCl3) δ 161.29, 151.18, 150.02, 147.76, 147.32, 130.47, 130.23, 129.18, 128.91, 127.26, 127.22, 122.40, 122.18, 118.77, 118.70, 113.81, 122.20, 111.43, 111.34, 111.04, 110.77, 92.73, 92.45, 63.76, 63.71, 55.87, 55.41, 23.80, 23.68, 14.57; Anal Calcd for C21H22N2O4: C, 68.84; H, 6.05; N, 7.65. Found: C, 68.94, 5.93; N, 7.53.

reactant | N-{5-[2-cyano-1-(3,4-dimethoxy-phenyl)-vinyl]-2-methoxy-phenyl}-acetamide | C(#N)C=C(C1=CC(=C(C=C1)OC)OC)C=1C=CC(=C(C1)NC(C)=O)OC | C20H20N2O4
reactant | 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile | 1.1 mmol, 0.4 g | NC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)OCC | C19H20N2O3
reactant | acetyl chloride | 1.1 mL | C(C)(=O)Cl | C2H3ClO
solvent | hexane | CCCCCC | C6H14
product | N-{5-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-acetamide | 0.2 g, 41% | C(#N)C=C(C1=CC(=C(C=C1)OC)OCC)C=1C=CC(=C(C1)NC(C)=O)OC | C21H22N2O4
